US04082843
3-(4-Cyano-3-hydroxybenzoyl)propionic acid was cyclised with hydrazine hydrate in a similar manner to that described in Example 3 (i) to give 6-(4-cyano-3-hydroxyphenyl)-4,5-dihydro-3(2H)-pyridazinone

reactant | 3-(4-Cyano-3-hydroxybenzoyl)propionic acid | C(#N)C1=C(C=C(C(=O)CCC(=O)O)C=C1)O | C11H9NO4
reactant | hydrazine hydrate | O.NN
product | 6-(4-cyano-3-hydroxyphenyl)-4,5-dihydro-3(2H)-pyridazinone | C(#N)C1=C(C=C(C=C1)C=1CCC(NN1)=O)O | C11H9N3O2
